US07825128B2
15) (2-chloro-5-(2-thienyl)pyrimidine-4-yl)-(2-piperidin-1-yl-ethyl)-amine
Preparation according to procedures 2 and 3 with the use of 2,4-dichloro-5-iodopyrimidine, 2-piperidin-1-yl-ethylamine and 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane.

reactant | 2,4-dichloro-5-iodopyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | 2-piperidin-1-yl-ethylamine | N1(CCCCC1)CCN | C7H16N2
reactant | 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
product | (2-chloro-5-(2-thienyl)pyrimidine-4-yl)-(2-piperidin-1-yl-ethyl)-amine | ClC1=NC=C(C(=N1)NCCN1CCCCC1)C=1SC=CC1 | C15H19ClN4S
